Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
s/p successful ablation for atrial flutter

 
History of Present Illness:
___ yo male with PMH significant for asthma, schizophrenia, 
psoriatic arthritis, h/o DVT, COPD, HTN who presented to the ED 
with shorntess of breath, tachycardia.  He was severely dypsneic 
with heart rates of 130s, found to be new atrial flutter.  He 
had CXR with left greater than right small pleural effusions, 
pulmonary edema, concern for possible pneumonia.  He was 
initially started on Cefepime/Vancomycin for HCAP, steroids for 
possible COPD exacerbation component.  He was then de-escalated 
to Ceftriaxone for ongoing treatment of pneumonia (day 1 of 
treatment ___. Other infectious work up was negative.  

For rate control, he had required increaisng doses of CCBs and 
beta blockers in the FICU, and was on a dilt gtt for rates 
persisting in the 140s.  He was seen in consultation by EP team 
on ___.  A long discussion was had with patient's legal 
guardian regarding options for restoring sinus rhythm and 
improving patient's symptoms.  Patient had TTE on ___ 
showing dilated left atrium, EF of 60%, normal RV chamber size 
and free wall motion.  Patient was subsequently diuresed and 
today went for TEE to rule out ___ which showed no 
spontaneous echo contrast or thrombus in ___.  Patient 
then underwent EP ablation for his atrial flutter which was 
noted to be typical counterclockwise Aflutter.  There were no 
inducible arrhythmias at the end of the procedure.  

Patient was then transferred to the cardiology EP service for 
ongoing care.  Post procedure on the floor, he reported no pain. 
 He feels that his breathing is "heavy" but that it is overall 
improved since admission. 
 
Past Medical History:
1.  COPD.
2.  Asthma
3.  Autism.
4.  Hypertension.
5.  Schizophrenia.
6.  Psoriatic arthritis.
7.  Inguinal hernia repair
8.  H/o DVT

1.  COPD.
2.  Autism.
3.  Hypertension.
4.  Schizophrenia.
5.  Psoriatic arthritis.

 
Social History:
___
Family History:
His father had a cerebrovascular event, and his mother had a 
myocardial infarction. He denies any family history of 
malignancy including colorectal, pancreatic, skin, and breast 
cancers. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals: T: 98.3 BP: 138/98 P: 119 in afib on tele R: 30 O2: 6L 
via NC 
GENERAL: Increased work of breathing, elderly male sitting up in 
bed, able to speak full sentences
HEENT: PEERL, EOMI, oropharynx clear
NECK:   supple, no LAD
LUNGS: Diffuse expiratory wheeze throughout all lung fields, 
decreased air movement throughout, no crackles
CV: Tachycardic and irregular rhythm, S1 and S2 no MRG
ABD:  firm, nt, mildly distended
EXT: 2+ pitting edema up to shins

DISCHARGE PHYSICAL EXAM:
VS: 97.9 106-113/55-62 ___ 20 95%RA
I/O: ___ ___
Wt: 83.1 <- 82.7 -> 83.1 (?)

Telemetry: no alarms

GENERAL: elderly male in no acute distress lying on his back
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink.  Mucus membranes dry. 
NECK: Supple with JVP of 3 cm above clavicle.  
CARDIAC: RRR, no m/r/g appreciated.  PMI nondisplaced
LUNGS: exam limited by patient position, diffusely coarse breath 
sounds.  
ABDOMEN: Soft, NTND. No HSM or tenderness. 
EXTREMITIES: trace edema bilaterally, warm.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas. 
 
Pertinent Results:
ADMISSION LABS
___ 04:00PM BLOOD WBC-10.8*# RBC-3.62* Hgb-10.3*# Hct-31.0* 
MCV-86 MCH-28.5 MCHC-33.2 RDW-15.2 RDWSD-47.1* Plt ___
___ 02:44AM BLOOD WBC-9.9 RBC-3.80* Hgb-10.8* Hct-32.7* 
MCV-86 MCH-28.4 MCHC-33.0 RDW-14.9 RDWSD-47.6* Plt ___
___ 04:00PM BLOOD Neuts-73.4* Lymphs-11.0* Monos-14.1* 
Eos-0.7* Baso-0.2 Im ___ AbsNeut-7.91* AbsLymp-1.18* 
AbsMono-1.52* AbsEos-0.08 AbsBaso-0.02
___ 04:00PM BLOOD ___ PTT-34.8 ___
___ 04:00PM BLOOD Glucose-116* UreaN-22* Creat-0.8 Na-130* 
K-4.4 Cl-95* HCO3-28 AnGap-11
___ 04:00PM BLOOD proBNP-2256*
___ 04:00PM BLOOD cTropnT-<0.01
___ 04:00PM BLOOD Calcium-8.8 Phos-3.2 Mg-2.0
___ 08:30PM BLOOD ___ pO2-21* pCO2-56* pH-7.35 
calTCO2-32* Base XS-2
___ 04:00PM BLOOD Lactate-1.2
___ 06:50PM URINE Color-Yellow Appear-Clear Sp ___
___ 06:50PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-TR
___ 06:50PM URINE RBC-4* WBC-3 Bacteri-FEW Yeast-NONE 
Epi-<1

DISCHARGE LABS:
___ 06:05AM BLOOD WBC-10.1* RBC-3.71* Hgb-10.4* Hct-32.9* 
MCV-89 MCH-28.0 MCHC-31.6* RDW-15.2 RDWSD-48.9* Plt ___
___ 06:05AM BLOOD Neuts-87.2* Lymphs-4.3* Monos-6.6 
Eos-0.7* Baso-0.2 Im ___ AbsNeut-16.37*# AbsLymp-0.80* 
AbsMono-1.24* AbsEos-0.14 AbsBaso-0.04
___ 06:05AM BLOOD Plt ___
___ 06:05AM BLOOD Glucose-81 UreaN-24* Creat-0.8 Na-140 
K-3.5 Cl-100 HCO3-33* AnGap-11
___ 06:05AM BLOOD Calcium-8.4 Phos-2.5* Mg-2.2

IMAGING:
___ CXR  
Left greater than right small pleural effusions.  Pulmonary 
edema.  Mild 
cardiomegaly.  Underlying infection difficult to exclude in the 
appropriate clinical setting. 

___ CXR
Increasing moderate pulmonary edema with accompanying pleural 
effusions right greater than left. 

___ pCXR: 
In comparison with the study of ___, the cardiac 
silhouette is within
normal limits.  Hyperexpansion of the lungs is consistent with 
chronic
pulmonary disease.  There is again prominence of interstitial 
markings, some
of which represents elevation of pulmonary venous pressure, 
while there may be
some component of chronic interstitial lung disease.  Poor 
definition of the
hemidiaphragms is consistent with small pleural effusions an 
basilar
atelectasis bilaterally. There is an area of increased 
opacification in the left upper zone, also seen previously, that 
could represent a focus of consolidation.  The area of
possible increased opacification the upper zone on the right is 
not definitely
seen on the current study, though it could be hidden be hind the 
first rib.

___ ECHOCARDIOGRAM:
Findings
LEFT ATRIUM: Mild ___. 

RIGHT ATRIUM/INTERATRIAL SEPTUM: Mildly dilated RA. IVC dilated 
(>2.1cm) with <50% decrease with sniff (estimated RA pressure 
(>=15 mmHg). 

LEFT VENTRICLE: Normal LV wall thickness. Normal LV cavity size. 
Suboptimal technical quality, a focal LV wall motion abnormality 
cannot be fully excluded. Overall normal LVEF (>55%). 
Beat-to-beat variability on LVEF due to irregular 
rhythm/premature beats. No resting LVOT gradient. 

RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 

AORTA: Normal aortic diameter at the sinus level. Focal 
calcifications in aortic root. Normal ascending aorta diameter. 
Focal calcifications in ascending aorta. Normal aortic arch 
diameter. Focal calcifications in aortic arch. 

AORTIC VALVE: Mildly thickened aortic valve leaflets (3). No AS. 
No AR. 

MITRAL VALVE: Mildly thickened mitral valve leaflets. Mild 
mitral annular calcification. Mild thickening of mitral valve 
chordae. Calcified tips of papillary muscles. No MS. ___ (1+) 
MR. 

___ VALVE: Normal tricuspid valve leaflets. Normal 
tricuspid valve supporting structures. No TS. Moderate [2+] TR. 
Normal PA systolic pressure. 

PULMONIC VALVE/PULMONARY ARTERY: Normal pulmonic valve leaflet. 
No PS. Physiologic PR. Normal main PA. No Doppler evidence for 
PDA 

PERICARDIUM: No pericardial effusion. There is an anterior space 
which most likely represents a fat pad, though a loculated 
anterior pericardial effusion cannot be excluded. 

GENERAL COMMENTS: Suboptimal image quality - poor echo windows. 
Suboptimal image quality as the patient was difficult to 
position.
Conclusions
The left atrium is mildly dilated. The estimated right atrial 
pressure is at least 15 mmHg. Left ventricular wall thicknesses 
are normal. The left ventricular cavity size is normal. Due to 
suboptimal technical quality, a focal wall motion abnormality 
cannot be fully excluded. Overall left ventricular systolic 
function is normal (LVEF = 60%). There is considerable 
beat-to-beat variability of the left ventricular ejection 
fraction due to an irregular rhythm. Right ventricular chamber 
size and free wall motion are normal. There are focal 
calcifications in the aortic arch. The aortic valve leaflets (3) 
are mildly thickened but aortic stenosis is not present. No 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. Mild (1+) mitral regurgitation is seen. 
Moderate [2+] tricuspid regurgitation is seen. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion. There is an anterior space which most 
likely represents a prominent fat pad. 
 
___ ECHO: No spontaneous echo contrast or thrombus is seen 
in the body of the left atrium/left atrial appendage or the body 
of the right atrium/right atrial appendage. The right atrial 
appendage ejection velocity is depressed (<0.2m/s). No atrial 
septal defect is seen by 2D or color Doppler. The left ventricle 
is not well seen. The aortic valve leaflets (3) are mildly 
thickened. Trace aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. Moderate (2+) mitral 
regurgitation is seen. 

IMPRESSION: No SEC or thrombus in the ___. Moderate 
mitral regurgitation.
 
Brief Hospital Course:
___ year old male with PMH significant for COPD, HTN, 
Schizophrenia, h/o DVT who presented to the ED from ___ 
with shortness of breath, found to be tachycardic with new 
atrial flutter, now s/p successful aflutter ablation, treatment 
of HCAP, and euvolemic from CHF exacerbation.
# Leukocytosis without SIRS
WBC dropped from 19 to 10. Patient non-toxic appearing, HDS, 
softer pressures likely ___ diltiazem. Covered with CTX, would 
cover strep, UTI, pyelo, some respiratory flora. Patient's OP 
secretions not typical of strep pharyngitis, would be treated. 
Patient treated for HCAP, has remained afebrile, HDS. Patient 
with chronic foley. Initial U/A with pyuria and bacteria, ___ + 
Nit neg. UCx sent
- CeftriaXONE 1 gm IV Q24H ___.
- Foley removed on discharge 
- new U/A and UCx - UA dirty, UCx pending
- Blood Cx x 2 pending
# Atrial Flutter: s/p successful ablation. Patient previously 
difficult to rate control and was symptomatic with shortness of 
breath, worsening pulmonary edema. Patient in SR.
- home Diltiazem to 180 mg XR
- patient will need to be on ASA 81mg for one month
- continue Apixaban 5mg BID indefinetly 
- discontinued Metoprolol 
********* 
# HCAP: Patient initially treated with Vanc/Cefepime, narrowed 
to Ceftriaxone. First full day of antibiotics ___. Patient 
was additionally given steroids up front for possible COPD 
exacerbation. No positive culture data this admission. S/p 5 
days of Azithromycin for atypical coverage/ COPD exacerbation. 
- final day of Ceftriaxone 1gram course was ___
# ___: Patient presented with evidence of volume overload. 
Rapid ventricular respnose likely contributing factor. He was 
diursed previously with boluses of Lasix 40mg IV, last given on 
___. Diuresis held in the setting of ? infection. 
# COPD: baseline COPD on Symbicort, Albuterol, Tiotropium. 
Patient did receive steroids this admission for component of 
COPD exacerbation. Now with no ongoing evidence of exacerbation. 
He is s/p 5 days of Azithro. 
- continue standing ipratropium
- Albuterol as needed 
- Tessalon perles for cough
- continued Montelukast 10mg daily 
# Schizophrenia: not on any antispsychotics normally. 
- Continued Mirtazapine 30mg qhs
# GERD: Omeprazole 20mg daily 
# BPH: home Flomax

#CODE: DNR/DNI 
#CONTACT: Patient, Legal guardian ___ ___ 
___

TRANSITIONAL ISSUES:
[ ] discharged s/p 10 day course of Ceftriaxone; had 
downtrending leukocytosis, UA positive for WBC, negative for 
nitrites, thought to be due to foley. Please continue monitoring 
urine cx and consider starting antibiotics if clinical concern 
for active infection.
[] consider restarting home diuretics
[ ] stopped home atenolol for soft BP; patient stable off of 
this medication as an inpatient. follow-up for possible re-start 
of atenolol
[ ] started on apixaban and tamsulosin - follow up with 
cardiology and PCP for long term regimen
[] ASA plan for one month 
[] please do bladder scan if patient is not voiding 
independently. Foley removed ___ prior to discharge. Please 
straight cath for >450mL as patient may be retaining urine. 
[] please check BMP ___ as furosemide restarted on discharge 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Bisacodyl 10 mg PR QHS:PRN constipation 
2. Polyethylene Glycol 17 g PO DAILY 
3. Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB, wheeze 
4. Senna 17.2 mg PO BID 
5. Montelukast 10 mg PO DAILY 
6. Tiotropium Bromide 1 CAP IH DAILY 
7. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation QHS 
8. Acetaminophen 325-650 mg PO Q4H:PRN pain 
9. Aspirin 81 mg PO DAILY 
10. Vitamin D 1000 UNIT PO DAILY 
11. Docusate Sodium 100 mg PO BID 
12. Mirtazapine 30 mg PO QHS 
13. TraZODone 12.5 mg PO QHS 
14. Atenolol 25 mg PO DAILY 
15. Diltiazem Extended-Release 120 mg PO DAILY 
16. Furosemide 40 mg PO DAILY 
17. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q4H:PRN pain 
2. Aspirin 81 mg PO DAILY 
3. Bisacodyl 10 mg PR QHS:PRN constipation 
4. Docusate Sodium 100 mg PO BID 
5. Mirtazapine 30 mg PO QHS 
6. Montelukast 10 mg PO DAILY 
7. Polyethylene Glycol 17 g PO DAILY 
8. Senna 17.2 mg PO BID 
9. Omeprazole 20 mg PO DAILY 
10. Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0
11. Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth daily at night Disp 
#*30 Capsule Refills:*0
12. Diltiazem Extended-Release 120 mg PO DAILY 
13. Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB, wheeze 
14. Furosemide 40 mg PO DAILY 
15. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation QHS 
16. Tiotropium Bromide 1 CAP IH DAILY 
17. TraZODone 12.5 mg PO QHS 
18. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
# acute diastolic CHF
# atrial fibrillation with rapid ventricular response
# COPD exacerbation
# possible community-acquired pneumonia

SECONDARY:
# hypertension
# hyperlipidemia
# schizophrenia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital for a new atypical heart 
rhythm, exacerbation of your congestive heart failure, and 
pneumonia. You underwent a procedure called an ablation to stop 
the irregular heart rhythm, and we gave you medications to 
decrease the extra fluid (diuretics), and antibiotics for your 
pneumonia. You improved throughout your stay with us. 

All of your medications with any changes are detailed in your 
discharge medication list. You should review this carefully and 
take it with you to any follow up appointments. Please have your 
electrolyte labs checked in one week. 

The details of your follow up appointments are given below.

It was a pleasure taking care of you.
Sincerely,
Your ___ Cardiology Team
 
Followup Instructions:
___